US07160888B2
A second intermediate compound, 1-Methyl-8-piperazin-1-yl-3,4-dihydro-1H-quinolin-2-one hydrochloride, was produced as follows: To a solution of 4-(2-oxo-1,2,3,4-tetrahydro-quinolin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester (2.5 g, 7.54 mmol) in THF (45 mL) cooled to −50° C. was added a solution of potassium t-butoxide, 1M in THF (8.3 mL, 8.30 mmol). After stirring for 15 minutes, methyl iodide (0.47 mL, 7.54 mmol) was added followed by stirring for 16 hours at 25° C. The mixture was evaporated and the residue was taken up into dichloromethane. The solution was washed consecutively with 1N citric acid, saturated sodium bicarbonate and brine. The organic phase was dried over sodium sulfate, filtered and evaporated to give a white foam, which was purified by chromatography on silica gel eluting with a gradient of dichloromethane and ethyl acetate. Evaporation of the appropriate fractions gave 4-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester (2.1 g).

reactant | 4-(2-oxo-1,2,3,4-tetrahydro-quinolin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 7.54 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2CCC(NC12)=O | C18H25N3O3
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | methyl iodide | 7.54 mmol, 0.47 mL | CI | CH3I
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 8.30 mmol, 8.3 mL | C1CCOC1 | C4H8O
product | 4-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2CCC(N(C12)C)=O | C19H27N3O3
